US06552069B1
A solution of 5,5,6,6,7,7,8,8,8-nonafluorooctan-1-ol (7.8 g, 26.70 mmol) in dichloromethane (150 ml) was cooled to 0° C. Triethylamine (9.29 ml, 66.75 mmol) and methanesulfonyl chloride (2.48 ml, 32.04 mmol) were added dropwise to the solution, followed by stirring for 1 hour. After the reaction was completed, water was added to the reaction mixture, which was then extracted twice with dichloromethane. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give 1-methanesulfonyloxy-5,5,6,6,7,7,8,8,8-nonafluorooctane (8.5 g, Yield 86%).

reactant | 5,5,6,6,7,7,8,8,8-nonafluorooctan-1-ol | 26.70 mmol, 7.8 g | FC(CCCCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H9F9O
reactant | Triethylamine | 66.75 mmol, 9.29 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 32.04 mmol, 2.48 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-methanesulfonyloxy-5,5,6,6,7,7,8,8,8-nonafluorooctane | 8.5 g, Yield 86% | CS(=O)(=O)OCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C9H11F9O3S
